US06624159B2
N-(4-Chlorobenzyl)-5-(3-hydroxyprop-1-ynyl)-1-methyl-7-oxo-2,3-dihydro-1H,7H-pyrido[3,2,1-ij]cinnoline-8-carboxamide [AN.1, X=chloro, Z=CH2OH]
A dry flask is charged with N-(4-chlorobenzyl)-5-iodo-1-methyl-7-oxo-2,3-dihydro-1H,7H-pyrido[3,2,1-ij]cinnoline-8-carboxamide (Preparation 40, 0.100 g), cuprous iodide (0.012 g), dichlorobistriphenylphosphine palladium (0.0072 g), propargyl alcohol (0.022 g), and diethylamine (4 mL). The reaction mixture is stirred at room temperature for 5 h and concentrated at reduced pressure. The residue is chromatographed, using 20 g of silica gel packed and eluted with EtOAc/CH2Cl2 (1/1), to obtain the title compound in 74% yield as a tan colored solid. Physical characteristics: M.p. 165-167° C.; 1H NMR (DMSO-d6) δ10.21, 8.67, 8.13, 7.74, 7.38, 5.41, 4.55, 4.35, 3.49, 3.12, 2.85; 13C NMR (DMSO-d6) δ173.69, 162.80, 144.92, 137.79, 133.56, 132.88, 130.54, 128.44, 127.97, 127.49, 126.10, 124.99, 117.98, 109.97, 90.12, 81.73, 48.60, 47.63, 43.24, 40.64, 17.64; MS (ESI+) m/z 422 (M+H)+; HRMS (FAB) m/z 422.1282 (C23H20ClN3O3+H); TLC (silica gel GF): Rf=0.22 acetone/chloroform (1/4).

reactant | N-(4-chlorobenzyl)-5-iodo-1-methyl-7-oxo-2,3-dihydro-1H,7H-pyrido[3,2,1-ij]cinnoline-8-carboxamide | 0.100 g | ClC1=CC=C(CNC(=O)C=2C(C=3C=C(C=C4CCN(N(C34)C2)C)I)=O)C=C1 | C20H17ClIN3O2
reactant | propargyl alcohol | 0.022 g | C(C#C)O | C3H4O
reactant | diethylamine | 4 mL | C(C)NCC | C4H11N
product | N-(4-Chlorobenzyl)-5-(3-hydroxyprop-1-ynyl)-1-methyl-7-oxo-2,3-dihydro-1H,7H-pyrido[3,2,1-ij]cinnoline-8-carboxamide | 74% yield | ClC1=CC=C(CNC(=O)C=2C(C=3C=C(C=C4CCN(N(C34)C2)C)C#CCO)=O)C=C1 | C23H20ClN3O3
